Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Elbow Hemarthrosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history 
significant
for recent diagnosis of microscopic colitis on budesonide 9mg
daily, HLD, GERD, who initially presented with progressively
painful hemarthrosis of left elbow a/w easy bruising, s/p
drainage on ___, found to have acquired hemophilia A, admitted
for FEIBA and immunosuppressive therapy to control hemarthrosis.

Per history obtained in the ED, patient had a dental procedure
about 14 days ago and was started on antibiotics given his
history of bilateral hip replacements. 10 days ago, he noticed
progressive swelling and pain in his left elbow, found to have
hemarthrosis, drained at ___ on ___. He also noticed easy
bruising during this time. He was seen by hematology earlier on
___, who diagnosed him with acquired hemophilia A iso elevated
PTT. He denied any bleeding or other joint pain. Patient lost 45
pounds over the last several months and has felt more weak and
tired.  

In the ED, initial vitals were: T 97.0F, HR 60, BP 146/79, RR 
17,
O2 Sat 97% RA.

Exam was notable for:
- Ext: Right anterior tibial swelling, mild tenderness 
palpation.
Significant ecchymosis and swelling of left elbow
- Skin: Scattered 0.25 cm ecchymoses throughout the abdomen, and
lower extremities, as well as upper extremities

Labs were notable for: 
- Coags
        PTT: 58.8
        Fibrinogen: 372
- Immunoglobulins 
        IgG: 575 
        IgA: 209 
        IgM: 24
- Heme
        Fac VIII: 4  
        Fac VIII Inhibitor: 28.0 
        Inh-Scr: Positive

Studies were notable for: 
- Right tibia and fibula without any abnormalities

The patient was given:
- anti-Inhibitor Coagulant Complex (FEIBA) 5760 units
- prednisone 120 mg 

Consults:
- Hematology 

On arrival to the floor, patient reports feeling tired, as he 
has
been over the last 3 months. He reports that he has lost 40
pounds since the beginning of the year, but has since was able 
to
gain 20 pounds back. 

 
Past Medical History:
- HLD
- Microscopic colitis
- ?GERD
- Gout
- Bilateral hip replacement (___)
 
Social History:
___
Family History:
Mother: CAD, HLD, HTN, CVA
Father: DM
Brother: ___ colon cancer   
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 98.0 (Tm 98.0), BP: 142/87, HR: 65, RR: 16, O2 
sat:
95%, O2 delivery: RA, Wt: 255.51 lb/115.9 kg
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. Left elbow with minor swelling and
tenderness with overlying ecchymotic patch. Abdomen with 
multiple
round faintly yellow-purple ecchymotic patches. Anterior right
shin with multiple faint yellow-purple ecchymotic patches. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
=======================
VITALS: ___ 0814 Temp: 97.3 PO BP: 151/93 HR: 70 RR: 18 O2
sat: 95% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. Left elbow with minor swelling and 
tenderness with overlying ecchymotic patch. Limited ROM though 
improved from prior days. Abdomen with multiple round faintly 
yellow-purple ecchymotic patches. Anterior right shin with 
multiple faint yellow-purple ecchymotic patches. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:40AM BLOOD WBC-8.4 RBC-4.77 Hgb-14.8 Hct-44.8 MCV-94 
MCH-31.0 MCHC-33.0 RDW-13.1 RDWSD-45.1 Plt ___
___ 11:40AM BLOOD Neuts-68.8 ___ Monos-8.4 Eos-0.6* 
Baso-0.2 Im ___ AbsNeut-5.76 AbsLymp-1.78 AbsMono-0.70 
AbsEos-0.05 AbsBaso-0.02
___ 11:40AM BLOOD ___ PTT-58.9* ___
___ 11:40AM BLOOD Plt ___
___ 08:45AM BLOOD FacVIII-4*
___ 08:45AM BLOOD ___ 08:45AM BLOOD Thrombn-13.3
___ 08:45AM BLOOD Inh Scr-POSITIVE VIII In-28.0*
___ 11:00AM BLOOD Glucose-96 UreaN-23* Creat-0.8 Na-143 
K-4.1 Cl-106 HCO3-23 AnGap-14
___ 08:45AM BLOOD PEP-PND IgG-575* IgA-209 IgM-24*

DISCHARGE LABS
==============

___ 06:18AM BLOOD WBC-14.0* RBC-4.53* Hgb-14.1 Hct-41.9 
MCV-93 MCH-31.1 MCHC-33.7 RDW-13.2 RDWSD-43.8 Plt ___
___ 06:18AM BLOOD ___ PTT-54.6* ___
___ 06:18AM BLOOD Glucose-97 UreaN-23* Creat-0.8 Na-140 
K-3.9 Cl-103 HCO3-24 AnGap-13
___ 06:18AM BLOOD Calcium-9.7 Phos-3.2 Mg-2.1
 
Brief Hospital Course:
TRANSITIONAL ISSUES 
===================
[ ] Patient was started on prednisone and cyclophosphamide while 
in the hospital for his acquired Hemophilia A - he will need to 
restart budesonide when he stops the prednisone. 
[ ] The patient was started on ppx with Bactrim and a PPI while 
on high dose steroids. These can likely be discontinued after 
the patient completes his course. 

ASSESSMENT AND PLAN:
====================
Mr. ___ is a ___ male with history 
significant for recent diagnosis of microscopic colitis on 
budesonide 9mg daily, HLD, GERD, who initially presented with 
progressively painful hemarthrosis of left elbow a/w easy 
bruising, s/p drainage on ___, found to have acquired hemophilia 
A, admitted for FEIBA for control of hemarthrosis, and 
initiation of immunosuppressive therapy. The patient remained 
stable during his admission without worsening signs of bleeding 
and was discharge with close hematology and oncology follow up. 

ACUTE/ACTIVE ISSUES:
====================
# Acquired hemophilia A
# Left elbow hemarthrosis 
Patient had progressive swelling and pain in his left elbow for 
10 days, found to have hemarthrosis, s/p drainage of 25 mL of 
blood at ___ on ___, associated with easy bruising. He was 
found to have elevated PTT to 58, with depleted factor VIII 
levels 4 and elevated factor VIII inhibitor to 28, c/w 
hemophilia A. Patient
received FEIBA to control the bleeding, and was initiated on 
prednisone 120mg Q24H and cyclophosphamide 250mg Q24H. He will 
continue these medications for one month, and follow up closely 
with Heme Onc. He will also be discharged on Bactrim and a PPI 
for PCP prophylaxis given prednisone use.

CHRONIC/STABLE ISSUES:
======================
# HLD 
Continued on rosuvastatin 20 mg qHS

# Microscopic colitis
No evidence of active flare, as patient remained without 
abdominal pain and diarrhea. Continued prednisone 120mg as above 
- held home budesonide while on prednisone. Continued 
cholestyramine PRN for diarrhea. Plan to restart budesonide when 
off prednisone.

# Gout 
Continued on home allopurinol ___ mg Q24H.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Budesonide 9 mg PO DAILY 
3. Cholestyramine 4 gm PO DAILY:PRN Diarrhea 
4. Rosuvastatin Calcium 20 mg PO QPM 

 
Discharge Medications:
1.  CycloPHOSPHAMIDE 250 mg PO DAILY 
RX *cyclophosphamide 50 mg 5 capsule(s) by mouth once a day Disp 
#*150 Capsule Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  PredniSONE 120 mg PO DAILY 
RX *prednisone 20 mg 6 tablet(s) by mouth once a day Disp #*180 
Tablet Refills:*0 
4.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
5.  Allopurinol ___ mg PO DAILY  
6.  Cholestyramine 4 gm PO DAILY:PRN Diarrhea  
7.  Rosuvastatin Calcium 20 mg PO QPM  
8. HELD- Budesonide 9 mg PO DAILY  This medication was held. Do 
not restart Budesonide until following up with your GI and Heme 
Onc doctors. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACTIVE ISSUES
=============
Acquired Hemophilia A 
Hemarthrosis, Left Elbow

CHRONIC/STABLE ISSUES
=====================
GERD
Gout
Microscopic Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had significant left elbow pain 
and swelling. 

What happened while I was in the hospital?  
- You were diagnosed with acquired Hemophilia A, and treated 
with FEIBA, a medication that will help your blood clot. You 
were also started on immunosuppressive medications to help 
reduce your symptoms and lessen bleeding. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team
 
Followup Instructions:
___